US06197962B1
First, 5.0 g (39.6 mmol) of 4-acetoxy-2-methyl-2-butenal, 7.05 g (39.6 mmol) of benzenesulfonyl cyanide, 0.91 g (4.0 mmol) of tributyl borate and 1-butanol (0.59 g, 7.9 mmol) were introduced to a 3-necked flask (100 ml volume) equipped with a thermometer, a magnetic stirrer, a Dean-Stark water type distilling receiver and a condenser tube. Toluene (20 ml) was added as the solvent. Then the mixture was heated under reflux for 22 hours while agitating at an internal temperature of 108° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure to give the desired, crude product. The crude product was purified by silica gel column chromatography (eluting solvent: ethyl acetate/hexane =⅓) to give 2.62 g of 3-acetoxy-2-benzenesulfonyl-5-methylpyridine with the following properties as a brown, oily substance (yield of 24% based on benzenesulfonyl cyanide).

reactant | 4-acetoxy-2-methyl-2-butenal | 39.6 mmol, 5.0 g | C(C)(=O)OCC=C(C=O)C | C7H10O3
reactant | benzenesulfonyl cyanide | 39.6 mmol, 7.05 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | tributyl borate | 4.0 mmol, 0.91 g | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | 1-butanol | 7.9 mmol, 0.59 g | C(CCC)O | C4H10O
product | 3-acetoxy-2-benzenesulfonyl-5-methylpyridine | 2.62 g, yield of 24% | C(C)(=O)OC=1C(=NC=C(C1)C)S(=O)(=O)C1=CC=CC=C1 | C14H13NO4S
